US05578620
(R)-3-Chlorophenoxymethyloxirane
A procedure similar to that described in Preparation was repeated, except that 5.14 g of 3-chlorophenol, 4.44 g of (S)-glycidol, 15.72 g of triphenylphosphine, 10.44 g of diethyl azodicarboxylate and 50 ml of anhydrous benzene were used, to give 6.43 g of the title compound having an Rf value of 0.42 (on silica gel thin layer chromatography, using a 1:3 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 3-chlorophenol | 5.14 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | (S)-glycidol | 4.44 g | C1[C@@H](O1)CO | C3H6O2
reactant | triphenylphosphine | 15.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 10.44 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | (R)-3-Chlorophenoxymethyloxirane | 6.43 g | ClC1[C@H](O1)COC1=CC=CC=C1 | C9H9ClO2
